US04736046
A 3-vinyldimethylsilyl-2-oxazolidinone was prepared in accordance with the following procedure. A mixture of 34.8 grams of 2-oxazolidinone and 48.17 grams of vinyldimethylchlorosilane was prepared in 750 ml of tetrahydrofuran solvent. 40.26 grams of triethylamine was added dropwise. The mixture was then heated in a distillation apparatus with continuous reflux for a period of 30 minutes.

reactant | 2-oxazolidinone | 34.8 grams | O1C(NCC1)=O | C3H5NO2
reactant | vinyldimethylchlorosilane | 48.17 grams | C(=C)[Si](Cl)(C)C | C4H9ClSi
reactant | triethylamine | 40.26 grams | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
product | 3-vinyldimethylsilyl-2-oxazolidinone | C(=C)N1C(OCC1[SiH](C)C)=O | C7H13NO2Si
